* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8475 -IN0.8X -IN0.4X +VS VOCM +OUT -OUT -VS +IN0.4X +IN0.8X
R1 N004 +IN0.8X 1.25e3
R2 N016 -IN0.8X 1.25e3
R17 +IN0.8X +IN0.4X 1.25e3
R18 -IN0.8X -IN0.4X 1.25e3
VISENSE2 VX2 N131 0
R14 N131 N016 1.00077741736e3
VISENSE1 VX1 N130 0
R15 N130 N004 1.00022262661e3
DC1 N004 N110 DX
V6 +VS N110 1.2
DC2 N111 N004 DX
V7 N111 -VS 0.4
G1 N013 N018 N004 N016 -.034349
R16 N013 N018 1e9
G3 0 VX1 VMID N013 .253192
G4 0 VX2 VMID N018 .253192
C1 N009 N013 3.2e-12
C2 N023 N018 3.2e-12
R19 VX1 N009 200
R20 VX2 N023 200
R11 VX1 0 1e9
R12 0 VX2 1e9
E5_VOCM_ERROR N032 VOCM VOCM 0 .2e-3
R7 +VS N032 200e3
R8 N032 -VS 200e3
V3 N031 N032 -10e-6
E1_balance N030 N031 +OUT -OUT 99.7927e-6
R5 N015 VX2 1e6
R6 VX1 N015 1e6
G2 0 N018 N015 N030 .00015
R9 N018 0 1e9
C3 N018 0 1e-18
G5 0 N013 N015 N030 .00015
R10 N013 0 1e9
C4 N013 0 1e-18
V_Noise N001 0 0
R13 N001 0 .0166
DN1 N002 N001 DN
VN1 0 N002 0.2
H1_Noise -OUT N008 V_Noise -2.5
H2_Noise +OUT N027 V_Noise 2.5
R34 N040 0 2
C11 N040 N039 1e-9
R35 8 0 2
C12 8 N041 1e-9
E11 N039 0 N042 0 1
R36 N040 N039 1000
E12 N041 0 N040 0 1
R37 8 N041 1000
R38 N044 0 2
C13 N044 N043 1e-9
R39 6 0 2
C14 6 N045 1e-9
E13 N043 0 N042 0 1
R40 N044 N043 1000
E14 N045 0 N044 0 1
R41 6 N045 1000
E15 N012 N011 6 0 -8e-3
E16 N026 N025 8 0 8e-3
R42 +IN0.4X N042 1e6
R43 N042 -IN0.4X 1e6
R44 +IN0.8X N042 1e6
R45 N042 -IN0.8X 1e6
R23 N034 0 46
C5 N034 N033 1e-9
R27 4 0 46
C8 4 N035 1e-9
E4 N033 0 +VS -VS 1
R21 N034 N033 1000
E5 N035 0 N034 0 1
R22 4 N035 1000
R24 N037 0 46
C6 N037 N036 1e-9
R25 2 0 46
C7 2 N038 1e-9
E3 N036 0 +VS -VS 1
R26 N037 N036 1000
E6 N038 0 N037 0 1
R28 2 N038 1000
E7 N011 N010 2 0 -8.173e-3
E8 N025 N024 4 0 8.173e-3
I1 +VS -VS 3.2e-3
GIsy +VS -VS VALUE={I(V_current_sense+)-I(V_current_sense-)}
*Fsup1 N100 0 POLY(4) V_Current_Sense+ V_Current_Sense- VISENSE1 VISENSE2 0 -1 -1 1 1
*Dsup1 +VS N101 DX
*DZsup1 N100 N101 DZ
*Dsup2 N102 -VS DX
*DZsup2 N102 N100 DZ
EMID VMID 0 POLY(2) +VS 0 -VS 0 0 0.5 0.5
EVP VP 0 +VS 0 1
EVN 0 VN 0 -VS 1
G10 0 VZ1 VX1 VY1 1e-3
RZ1 0 VZ1 1e9
DSLEW1 VC1 0 DZ
DSLEW2 VC1 VZ1 DZ
GZ1 0 VY1 VZ1 0 1e-6
C10 0 VY1 1e-12
R33 VY1 0 1e9
E9 N006 0 VY1 0 1
G11 0 VZ2 VX2 VY2 1e-3
RZ2 0 VZ2 1e9
DSLEW3 VC2 0 DZ
DSLEW4 VC2 VZ2 DZ
GZ2 0 VY2 VZ2 0 1e-6
C9 0 VY2 1e-12
R31 VY2 0 1e9
E10 N020 0 VY2 0 1
VOS- N010 N006 27.158e-6
VOS+ N024 N020 -27.158e-6
V_Current_Sense- N008 N005 0
V_Current_Sense+ N027 N022 0
D1 N021 N019 DX
D2 N028 N021 DX
D3 P001 N007 DX
D4 N007 P002 DX
V1 P003 N019 .57837
V2 N028 N029 .58737
V4 N003 P002 .57837
V5 P001 N014 .58737
G8 0 N120 N007 N005 1
R50 N120 0 1e9
C50 N120 0 1.18e-9
G9 0 N005 N120 0 8.33e-3
R51 N005 0 120
C51 N005 0 10e-12
G12 0 N121 N021 N022 1
R52 N121 0 1e9
C52 N121 0 1.18e-9
G13 0 N022 N121 0 8.33e-3
R53 N022 0 120
C53 N022 0 10e-12
G6 0 N007 N012 0 1e-3
G7 0 N021 N026 0 1e-3
R29 N007 0 1e3
R30 N021 0 1e3
H1 N029 VN V_Current_Sense+ 13.1
H2 VP P003 V_Current_Sense+ -17.42
H3 N014 VN V_Current_Sense- 13.1
H4 VP N003 V_Current_Sense- -17.42
*R32 NC 0 1e6
.model DX D(IS=1e-15 RS=.1)
.model DN D(IS=1e-15 KF=2.1e-3)
.model DZ D(IS=1e-15 BV=24.5)
.ends AD8475